US08168648B2
To a solution of (S)-(−)-ethyl lactate (20 mL, 191.06 mmol) in DMF (191 mL) was added tert-butyldimethyl silyl chloride (39.6 g, 262.59 mmol) and imidazole (41.6 g, 612.72 mmol). After stirring at room temperature for 20 hr, the reaction mixture was diluted with a saturated aqueous NaCl solution (600 mL) and extracted with petroleum ether (3×400 mL). The organic layer was washed with a cold 3% HCl solution (200 mL) and a saturated aqueous NaCl solution (200 mL), dried over Na2SO4 and concentrated. The remaining residue was purified by silica gel (700 g) with petroleum ether (2 L), followed by 3% ethyl acetate in petroleum ether (4 L). The 3% ethyl acetate in the petroleum ether fractions was collected and the solvent was removed to give 36.57 g of (S)-(−)-ethyl 2-(tert-butyldimethylsilyloxy)propanoate as colorless oil (82% yield). 1H NMR (CDCl3): δ 4.23 (q, 1H, J=6.8 Hz, H2, —CH—), 4.11 (q, 2H, J=7.2 Hz, —CH2—), 1.32 (d, 3H, J=6.8 Hz, H3, —CH3), 1.21 (t, 3H, J=7.2 Hz, —CH3), 0.83 (s, 9H, Si—(CH3)3), 0.03 (s, 3H, Si—CH3), 0.00 (s, 3H, Si—CH3).

reactant | (S)-(−)-ethyl lactate | 191.06 mmol, 20 mL | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | tert-butyldimethyl silyl chloride | 262.59 mmol, 39.6 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 612.72 mmol, 41.6 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 191 mL | CN(C)C=O | C3H7NO
solvent | NaCl | 600 mL | [Na+].[Cl-]
product | (S)-(−)-ethyl 2-(tert-butyldimethylsilyloxy)propanoate | 36.57 g, 82% yield | [Si](C)(C)(C(C)(C)C)O[C@H](C(=O)OCC)C | C11H24O3Si
